### PR TITLE
[Merged by Bors] - chore: adaptations for nightly-2025-10-29

### PR DESCRIPTION
**Pull request by leanprover-community-bot-assistant**

### CODE REVIEW

File: Mathlib/Algebra/Lie/Nilpotent.lean [hunk 1]
```diff
@@ -468,7 +468,7 @@ theorem lowerCentralSeriesLast_le_of_not_isTrivial [IsNilpotent L M] (h : ¬ IsT
     contradiction
   rcases hk : nilpotencyLength L M with - | k <;> rw [hk] at h
   · contradiction
-  · exact antitone_lowerCentralSeries _ _ _ (Nat.lt_succ.mp h)
+  · exact antitone_lowerCentralSeries _ _ _ (Nat.lt_succ_iff.mp h)
```
Comment (kbuzzard) [inline Mathlib/Algebra/Lie/Nilpotent.lean]:
```suggestion
  · exact antitone_lowerCentralSeries _ _ _ (Nat.le_of_lt_succ h)
```

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 2]
```diff
@@ -431,15 +431,15 @@ theorem coeff_divByMonic_X_sub_C (p : R[X]) (a : R) (n : ℕ) :
     (p /ₘ (X - C a)).coeff n = ∑ i ∈ Icc (n + 1) p.natDegree, a ^ (i - (n + 1)) * p.coeff i := by
   wlog h : p.natDegree ≤ n generalizing n
   · refine Nat.decreasingInduction' (fun n hn _ ih ↦ ?_) (le_of_not_ge h) ?_
-    · rw [coeff_divByMonic_X_sub_C_rec, ih, eq_comm, Icc_eq_cons_Ioc (Nat.succ_le.mpr hn),
+    · rw [coeff_divByMonic_X_sub_C_rec, ih, eq_comm, Icc_eq_cons_Ioc (Nat.succ_le_iff.mpr hn),
```
Comment (kbuzzard) [inline Mathlib/Algebra/Polynomial/Div.lean:434]:
```suggestion
    · rw [coeff_divByMonic_X_sub_C_rec, ih, eq_comm, Icc_eq_cons_Ioc (Nat.succ_le_of_lt hn),
```

File: Mathlib/Algebra/Polynomial/Div.lean [hunk 3]
```diff
@@ -431,15 +431,15 @@ theorem coeff_divByMonic_X_sub_C (p : R[X]) (a : R) (n : ℕ) :
...
           sum_cons, Nat.sub_self, pow_zero, one_mul, mul_sum]
       congr 1; refine sum_congr ?_ fun i hi ↦ ?_
-      · ext; simp [Nat.succ_le]
+      · ext; simp [Nat.succ_le_iff]
       rw [← mul_assoc, ← pow_succ', eq_comm, i.sub_succ', Nat.sub_add_cancel]
       apply Nat.le_sub_of_add_le
       rw [add_comm]; exact (mem_Icc.mp hi).1
     · exact this _ le_rfl
-  rw [Icc_eq_empty (Nat.lt_succ.mpr h).not_ge, sum_empty]
+  rw [Icc_eq_empty (Nat.lt_succ_iff.mpr h).not_ge, sum_empty]
```
Comment (kbuzzard) [inline Mathlib/Algebra/Polynomial/Div.lean:442]:
```suggestion
  rw [Icc_eq_empty (Nat.lt_succ_of_le h).not_ge, sum_empty]
```

File: Mathlib/Algebra/Polynomial/Homogenize.lean [hunk 4]
```diff
@@ -205,7 +205,7 @@ variable {K : Type*} [Semifield K]
 
 lemma eval_homogenize {p : K[X]} {n : ℕ} (hn : p.natDegree ≤ n) (x : Fin 2 → K) (hx : x 1 ≠ 0) :
     MvPolynomial.eval x (p.homogenize n) = p.eval (x 0 / x 1) * x 1 ^ n := by
-  simp only [homogenize, Polynomial.eval_eq_sum_range' (Nat.lt_succ.mpr hn),
+  simp only [homogenize, Polynomial.eval_eq_sum_range' (Nat.lt_succ_iff.mpr hn),
```
Comment (kbuzzard) [inline Mathlib/Algebra/Polynomial/Homogenize.lean:208]:
```suggestion
  simp only [homogenize, Polynomial.eval_eq_sum_range' (Nat.lt_succ_of_le hn),
```

File: Mathlib/Computability/Primrec.lean [hunk 5]
```diff
@@ -1088,7 +1088,7 @@ theorem nat_omega_rec' (f : β → σ) {m : β → ℕ} {l : β → List β} {g
       induction i with
       | zero => symm; simpa [graph] using bindList_eq_nil
       | succ i ih =>
-        simp only [graph_succ, ih (Nat.le_of_lt hi), Nat.succ_sub (Nat.lt_succ.mp hi),
+        simp only [graph_succ, ih (Nat.le_of_lt hi), Nat.succ_sub (Nat.lt_succ_iff.mp hi),
```
Comment (kbuzzard) [inline Mathlib/Computability/Primrec.lean]:
```suggestion
        simp only [graph_succ, ih (Nat.le_of_lt hi), Nat.succ_sub (Nat.le_of_lt_succ hi),
```

File: Mathlib/Data/Fin/Tuple/Basic.lean [hunk 6]
```diff
@@ -671,7 +671,7 @@ theorem append_cons {α : Sort*} (a : α) (as : Fin n → α) (bs : Fin m → α
   · split_ifs with h
     · have : i < n := Nat.lt_of_succ_lt_succ h
       simp [addCases, this]
-    · have : ¬i < n := Nat.not_le.mpr <| Nat.lt_succ.mp <| Nat.not_le.mp h
+    · have : ¬i < n := Nat.not_le.mpr <| Nat.lt_succ_iff.mp <| Nat.not_le.mp h
```
Comment (kbuzzard) [inline Mathlib/Data/Fin/Tuple/Basic.lean]:
```suggestion
    · have : ¬i < n := Nat.not_le_of_gt <| Nat.le_of_lt_succ <| Nat.gt_of_not_le h
```

File: Mathlib/NumberTheory/SmoothNumbers.lean [hunk 7]
```diff
@@ -379,7 +379,7 @@ lemma pow_mul_mem_smoothNumbers {p n : ℕ} (hp : p ≠ 0) (e : ℕ) (hn : n ∈
   refine ⟨mul_ne_zero hp' hn.1, fun q hq ↦ ?_⟩
   rcases (mem_primeFactorsList_mul hp' hn.1).mp hq with H | H
   · rw [mem_primeFactorsList hp'] at H
-    exact lt_succ.mpr <| le_of_dvd hp.bot_lt <| H.1.dvd_of_dvd_pow H.2
+    exact Nat.lt_succ_iff.mpr <| le_of_dvd hp.bot_lt <| H.1.dvd_of_dvd_pow H.2
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/SmoothNumbers.lean]:
```suggestion
    exact Nat.lt_succ_of_le <| le_of_dvd hp.bot_lt <| H.1.dvd_of_dvd_pow H.2
```

File: Mathlib/Order/KrullDimension.lean [hunk 8]
```diff
@@ -695,7 +695,7 @@ lemma le_krullDim_iff {n : ℕ} : n ≤ krullDim α ↔ ∃ l : LTSeries α, l.l
   cases finiteDimensionalOrder_or_infiniteDimensionalOrder α
   · rw [krullDim_eq_length_of_finiteDimensionalOrder, Nat.cast_le]
     constructor
-    · exact fun H ↦ ⟨(LTSeries.longestOf α).take ⟨_, Nat.lt_succ.mpr H⟩, rfl⟩
+    · exact fun H ↦ ⟨(LTSeries.longestOf α).take ⟨_, Nat.lt_succ_iff.mpr H⟩, rfl⟩
```
Comment (kbuzzard) [inline Mathlib/Order/KrullDimension.lean]:
```suggestion
    · exact fun H ↦ ⟨(LTSeries.longestOf α).take ⟨_, Nat.lt_succ_of_le H⟩, rfl⟩
```

File: Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean [hunk 9]
```diff
@@ -244,7 +244,7 @@ lemma partialTraj_succ_map_frestrictLe₂ (a b : ℕ) :
     rw [partialTraj_succ_eq_comp hab, map_comp, partialTraj_succ_self, ← map_comp_right,
       frestrictLe₂_comp_IicProdIoc, ← fst_eq, fst_prod, id_comp]
     all_goals fun_prop
-  · rw [partialTraj_le (Nat.succ_le.2 hba), partialTraj_le hba.le, deterministic_map]
+  · rw [partialTraj_le (Nat.succ_le_iff.2 hba), partialTraj_le hba.le, deterministic_map]
```
Comment (kbuzzard) [inline Mathlib/Probability/Kernel/IonescuTulcea/PartialTraj.lean]:
```suggestion
  · rw [partialTraj_le (Nat.succ_le_of_lt hba), partialTraj_le hba.le, deterministic_map]
```

File: Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean [hunk 10]
```diff
@@ -111,7 +111,7 @@ def iterateInduction {a : ℕ} (x : Π i : Iic a, X i)
   | k + 1 => if h : k + 1 ≤ a
       then x ⟨k + 1, mem_Iic.2 h⟩
       else ind k (fun i ↦ iterateInduction x ind i)
-  decreasing_by exact Nat.lt_succ.2 (mem_Iic.1 i.2)
+  decreasing_by exact Nat.lt_succ_iff.2 (mem_Iic.1 i.2)
```
Comment (kbuzzard) [inline Mathlib/Probability/Kernel/IonescuTulcea/Traj.lean]:
```suggestion
  decreasing_by exact Nat.lt_succ_of_le (mem_Iic.1 i.2)
```

File: Mathlib/Probability/ProductMeasure.lean [hunk 11]
```diff
@@ -169,7 +169,7 @@ theorem partialTraj_const_restrict₂ {a b : ℕ} :
     (partialTraj (fun n ↦ const _ (μ (n + 1))) a b).map (restrict₂ Ioc_subset_Iic_self) =
     const _ (Measure.pi (fun i : Ioc a b ↦ μ i)) := by
   obtain hab | hba := lt_or_ge a b
-  · refine Nat.le_induction ?_ (fun n hn hind ↦ ?_) b (Nat.succ_le.2 hab) <;> ext1 x₀
+  · refine Nat.le_induction ?_ (fun n hn hind ↦ ?_) b (Nat.succ_le_iff.2 hab) <;> ext1 x₀
```
Comment (kbuzzard) [inline Mathlib/Probability/ProductMeasure.lean]:
```suggestion
  · refine Nat.le_induction ?_ (fun n hn hind ↦ ?_) b (Nat.succ_le_of_lt hab) <;> ext1 x₀
```

File: Mathlib/Tactic/NormNum/LegendreSymbol.lean [hunk 12]
```diff
@@ -73,7 +73,7 @@ theorem jacobiSymNat.zero_left (b : ℕ) (hb : Nat.beq (b / 2) 0 = false) : jaco
   calc
     1 < 2 * 1       := by decide
     _ ≤ 2 * (b / 2) :=
-      Nat.mul_le_mul_left _ (Nat.succ_le.mpr (Nat.pos_of_ne_zero (Nat.ne_of_beq_eq_false hb)))
+      Nat.mul_le_mul_left _ (Nat.succ_le_iff.mpr (Nat.pos_of_ne_zero (Nat.ne_of_beq_eq_false hb)))
```
Comment (kbuzzard) [inline Mathlib/Tactic/NormNum/LegendreSymbol.lean]:
```suggestion
      Nat.mul_le_mul_left _ (Nat.succ_le_of_lt (Nat.pos_of_ne_zero (Nat.ne_of_beq_eq_false hb)))
```

**Review by kbuzzard — APPROVED** [review]
I've gone through all the diff. I think writing `Nat.foo.mp` or `Nat.foo.2` is daft when `foo` is actually proved as `\<one_way, the_other_way\>`, not least because the individual implication lemmas typically have names which are at least as explanatory as the iff ones. I changed the first one myself and pushed, and then realised there were 10+ others so I've left them for someone else to decide.

There's a merge conflict but other than that this looks ready to go.

File: Mathlib/Data/Finset/Image.lean [hunk 13]
```diff
@@ -483,8 +483,9 @@ theorem attach_insert [DecidableEq α] {a : α} {s : Finset α} :
         ((attach s).image fun x => ⟨x.1, mem_insert_of_mem x.2⟩) :=
   ext fun ⟨x, hx⟩ =>
     ⟨Or.casesOn (mem_insert.1 hx)
-        (fun h : x = a => fun _ => mem_insert.2 <| Or.inl <| Subtype.eq h) fun h : x ∈ s => fun _ =>
-        mem_insert_of_mem <| mem_image.2 <| ⟨⟨x, h⟩, mem_attach _ _, Subtype.eq rfl⟩,
+        (fun h : x = a => fun _ => mem_insert.2 <| Or.inl <| Subtype.ext h)
+        fun h : x ∈ s => fun _ =>
+          mem_insert_of_mem <| mem_image.2 <| ⟨⟨x, h⟩, mem_attach _ _, Subtype.ext rfl⟩,
```
Comment (kbuzzard) [inline Mathlib/Data/Finset/Image.lean]: I claim that if you revert this change then it will fix the conflict; the proof in mathlib has been golfed two days ago and the change is no longer necessary.

**Comment by kim-em** [comment]
bors merge

**Comment by kim-em** [comment]
bors merge
